US03950525
A. Ethyl 2-aminocinnamate (I; Ar = C6H5)
To a solution of dry ethyl ether (300 ml.) is added magnesium turnings (16.9 g.). Bromobenzene (103 g.) in ether (600 ml.) is added at a rate to maintain gentle refluxing (An iodine crystal or a ml. of methyliodide often must be added to initiate the reaction.). Refluxing is continued until most of the magnesium has reacted. Ethyl cyanoacetate (30 g.) is added over a 30 minute period and the reaction mixture allowed to stir for 3 hours at room temperature after which time 3.5N sulfuric acid (180 ml.) is added and the reaction allowed to stir for 30 additional minutes. The aqueous layer is extracted with diethyl ether and the organic layer washed with water and dried over sodium sulfate. Removal of the ether in vacuo followed by distillation of the residual oil gives the desired product, b.p. at 0.4 mm, 138°-142° C.

reactant | magnesium | 16.9 g | [Mg] | Mg
reactant | Bromobenzene | 103 g | BrC1=CC=CC=C1 | C6H5Br
reactant | iodine | II | I2
reactant | methyliodide | CI | CH3I
reactant | Ethyl cyanoacetate | 30 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sulfuric acid | 3.5N, 180 ml | S(O)(O)(=O)=O | H2O4S
reactant | ether | 600 ml | CCOCC | C4H10O
reactant | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | Ethyl 2-aminocinnamate | NC1=C(C=CC(=O)OCC)C=CC=C1 | C11H13NO2
